US05840917
2-Methyl-3-furancarboxylic acid ethyl ester (10.5 g) was dissolved in acetonitrile (50 ml), and sulfuryl chloride (5.6 ml) was added under ice-cooling. The mixture was stirred at 10° C. for 30 minutes, and 10% aqueous sodium thiosulfate (100 ml) was added. The mixture was stirred at room temperature for 2 hours, and extracted with diethyl ether. The extract was washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography, and the desired fractions were concentrated under reduced pressure to give 5-chloro-2-methyl-3-furancarboxylic acid ethyl ester (10 g) as oil. 5-Chloro-2-methyl-3-furancarboxylic acid ethyl ester (10 g) was dissolved in ethanol (100 ml), and 1N aqueous sodium hydroxide (60 ml) was added. The mixture was stirred under reflux for 30 minutes and concentrated under reduced pressure. The residue was dissolved in water and washed with diethyl ether. The aqueous layer was acidified with 1N hydrochloric acid and extracted with ethyl acetate. The extract was washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. Precipitated crystals were recrystallized from acetone-hexane to give 5-chloro-2-methyl-3-furancarboxylic acid (5.5 g) as crystals.

reactant | 2-Methyl-3-furancarboxylic acid ethyl ester | 10.5 g | C(C)OC(=O)C1=C(OC=C1)C | C8H10O3
reactant | sulfuryl chloride | 5.6 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | sodium thiosulfate | 100 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 5-chloro-2-methyl-3-furancarboxylic acid ethyl ester | 10 g | C(C)OC(=O)C1=C(OC(=C1)Cl)C | C8H9ClO3
